US08115027B2
In a mixture of 2 ml of methanol and 2 ml of methylene chloride, 291 mg of 4-t-butylsulfinylaminopiperidine-1-carboxylic acid(4-t-butylphenyl)amide was dissolved. To the mixture, 570 mg of 80%-MMPP (magnesium monoperoxyphthalate hexahydrate) was added and the mixture was stirred at room temperature for 2 hours. The solution was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate anhydride. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography to give 130 mg of 4-t-butylsulfonylaminopiperidine-1-carboxylic acid(4-butylphenyl)amide (I-120).

reactant | 4-t-butylsulfinylaminopiperidine-1-carboxylic acid(4-t-butylphenyl)amide | 291 mg | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)NS(=O)C(C)(C)C | C20H33N3O2S
reactant | MMPP | C1=CC=C(C(=C1)C(=O)[O-])C(=O)O[O-].[Mg+2]
reactant | methanol | 2 ml | CO | CH4O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-t-butylsulfonylaminopiperidine-1-carboxylic acid(4-butylphenyl)amide | 130 mg | C(CCC)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)NS(=O)(=O)C(C)(C)C | C20H33N3O3S
